US04409229
A mixture of 0.3 g of 6-fluoro-1,3-dihydro-1'-methyl-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] and 0.3 g of phenyl chloroformate in 10 ml of methylene chloride which was previously stirred at ambient temperature for 16 hours is sequentially quenched with water, washed with 10% sodium hydroxide and dried. The reaction mixture is concentrated under vacuum leaving a viscous oil which crystallized with standing. The solid product is recrystallized from an ether-pentane mixture to give prisms, m.p. 156°-158° C. of 6-fluoro-1,3-dihydro-3-phenyl-1'-phenoxycarbonylspiro[benzo(c)thiophene-1,4'-piperidine].

reactant | 6-fluoro-1,3-dihydro-1'-methyl-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | 0.3 g | FC=1C=CC2=C(C1)C1(CCN(CC1)C)SC2C2=CC=CC=C2 | C19H20FNS
reactant | phenyl chloroformate | 0.3 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-fluoro-1,3-dihydro-3-phenyl-1'-phenoxycarbonylspiro[benzo(c)thiophene-1,4'-piperidine] | FC=1C=CC2=C(C1)C1(CCN(CC1)C(=O)OC1=CC=CC=C1)SC2C2=CC=CC=C2 | C25H22FNO2S
